US05703109
d) 1-chloro-1-(4-cyanophenyl)-3-(4-fluorophenyl)propane
1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanol (3.43 g, 13 mmol) is dissolved in dichloromethane (20 ml). Thionylchloride (1.2 ml, 16 mmol) is added dropwise to the cooled solution and the mixture is stirred in room temperature for 2 hours. The mixture is washed with water, dried and the solvent is evaporated. The residue is used for the next step without further purification.

reactant | 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanol | 13 mmol, 3.43 g | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)O | C16H14FNO
reactant | Thionylchloride | 16 mmol, 1.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-chloro-1-(4-cyanophenyl)-3-(4-fluorophenyl)propane | ClC(CCC1=CC=C(C=C1)F)C1=CC=C(C=C1)C#N | C16H13ClFN
